US09169198B2
The above-described method (Example 2) was repeated to react pentyl 2-amino-5-bromo-3-methylbenzoate (2.3 g, 7.59 mmol) with copper cyanide (0.69 g, 7.74 mmol) in N,N-dimethylacetamide at 170° C. for 6 hours. Following working up similar to Example 2 and additional extraction with ethyl acetate and washing with aqueous 5% ethylenediamine solution, pentyl 2-amino-5-cyano-3-methylbenzoate (1.78 g, 89.2% of theory, 93.6 area % LC) was obtained as a brown oil.

reactant | pentyl 2-amino-5-bromo-3-methylbenzoate | 7.59 mmol, 2.3 g | NC1=C(C(=O)OCCCCC)C=C(C=C1C)Br | C13H18BrNO2
reactant | copper cyanide | 7.74 mmol, 0.69 g | [Cu](C#N)C#N
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | pentyl 2-amino-5-cyano-3-methylbenzoate | 1.78 g, 89.2% | NC1=C(C(=O)OCCCCC)C=C(C=C1C)C#N | C14H18N2O2
